US06777557B2
2,3,8-Trimethyl-6-phenyl-8H-thiazolo[2,3-c](1,4)oxazin-4-ium bromide
1-(4,5-Dimethyl-2-thiazolyl)ethyl acetate (1.28 g, 6.4 mmole), 2-bromo-1-phenyl-1-ethanone (1.28 g, 6.4 mmole), and acetonitrile (0.5 mL) were heated at 105 C. with stirring for 3.5 hr. The mixture was diluted with water (60 mL), filtered with water washes (20 mL), and the filtrate was extracted with ether (30 mL). The aqueous phase was evaporated to dryness in vacuo yielding 1.8 g crude product, which was dissolved in acetonitrile, diluted with ether, and stored at room temp. for several days to produce needle-like crystals which were recrystallized from methanol/acetonitrile/ether to give 0.57 g of the title compound, mp 236 C. (dec.).

reactant | 1-(4,5-Dimethyl-2-thiazolyl)ethyl acetate | 6.4 mmole, 1.28 g | C(C)(=O)OC(C)C=1SC(=C(N1)C)C | C9H13NO2S
reactant | 2-bromo-1-phenyl-1-ethanone | 6.4 mmole, 1.28 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | water | 60 mL | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 2,3,8-Trimethyl-6-phenyl-8H-thiazolo[2,3-c](1,4)oxazin-4-ium bromide | 0.57 g | [Br-].CC1=C([N+]2=C(C(OC(=C2)C2=CC=CC=C2)C)S1)C | InChI=1S/C15H16NOS.BrH/c1-10-12(3)18-15-11(2)17-14(9-16(10)15)13-7-5-4-6-8-13;/h4-9,11H,1-3H3;1H/q+1;/p-1
